US04328367
Production of N-(3-acetyloxypropyl)-N'-(2-fluoro-4-chlorophenyl)-3,4,5,6-tetrahydrophthalamide
In pyridine (20 ml) was dissolved N-(3-hydroxypropyl)N'-(2-fluoro-4-chlorophenyl)-3,4,5,6-tetrahydrophthalamide (1.5 g), followed by addition of acetic anhydride (10 ml). The mixture was stirred at room temperature for 30 minutes. The reaction mixture was poured into 200 ml of ice-water and, after stirring, the precipitate was recovered by filtration and rinsed with water. After drying, it was recrystallized from ethyl acetate-n-hexane. Yield 0.9 g; m.p. 127°-128° C.

reactant | N-(3-hydroxypropyl)N'-(2-fluoro-4-chlorophenyl)-3,4,5,6-tetrahydrophthalamide | 1.5 g | OCCCNC(C1=C(C(=O)NC2=C(C=C(C=C2)Cl)F)CCCC1)=O | C17H20ClFN2O3
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | N-(3-acetyloxypropyl)-N'-(2-fluoro-4-chlorophenyl)-3,4,5,6-tetrahydrophthalamide | C(C)(=O)OCCCNC(C1=C(C(=O)NC2=C(C=C(C=C2)Cl)F)CCCC1)=O | C19H22ClFN2O4
